US04093812
Heat 0.6 g of 3-(5-nitro-2-furyl)-1-(2-pyridyl)pyrazole-4-carboxaldehyde together with 0.27 g of ethylcarbazate and 2 drops of glacial acetic acid in 8 ml of ethanol for 1.5 hours at boiling point. Cool the resulting product for a 97% yield of 3-(5-nitro-2-furyl)-1-(2-pyridyl)pyrazole-4-carboxaldehyde-ethoxycarbonylhydrazone [m.p. 215° to 216° C (with decomposition) from toluene].

reactant | 3-(5-nitro-2-furyl)-1-(2-pyridyl)pyrazole-4-carboxaldehyde | 0.6 g | [N+](=O)([O-])C1=CC=C(O1)C1=NN(C=C1C=O)C1=NC=CC=C1 | C13H8N4O4
reactant | ethylcarbazate | 0.27 g | C(C)OC(NN)=O | C3H8N2O2
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | 3-(5-nitro-2-furyl)-1-(2-pyridyl)pyrazole-4-carboxaldehyde-ethoxycarbonylhydrazone | 97% yield | C(C)OC(=O)NN=CC=1C(=NN(C1)C1=NC=CC=C1)C=1OC(=CC1)[N+](=O)[O-] | C16H14N6O5
